US06849636B2
2-(4-Methoxy-2-methylphenyl)-5-(4-pentylbicyclo[2.2.2]oct-1-yl)-1,3,4-oxadiazole (2-E) (988 mg, 2.68 mmol), methylammonium trifluoroacetate (9.72 g, 67 mmol, prepared by combining equimolar amounts of methylamine and trifluoroacetic acid in ether followed by concentration in vacuo), and methylamine (2M/MeOH, 33 mL, 67 mmol) were stirred together in a glass bomb at 150° C. for 114 h. The mixture was concentrated in vacuo and the residue partitioned with methylene chloride and water. The aqueous phase was extracted with methylene chloride and the combined extracts washed with brine, dried (MgSO4) and concentrated in vacuo. The residue was purified by column chromatography (silica gel, ethyl acetate:hexane, 7:3, then 9:1) to give 3-(4-methoxy-2-methylphenyl)-4-methyl-5-(4-pentylbicyclo[2.2.2]oct-1-yl)-4H-1,2,4-triazole (2-F). Mass spectrum: 382 (M+1); 1H NMR (500 MHz, CDCl3): δ 0.93 (t, 3H); 1.27 (m, 8H); 1.56 (m, 6H); 2.12 (m, 6H); 2.18 (s, 3H); 3.49 (s, 3H); 3.87 (s, 3H); 6.85 (m, 2H); 7.24 (d, 1H) ppm.

reactant | 2-(4-Methoxy-2-methylphenyl)-5-(4-pentylbicyclo[2.2.2]oct-1-yl)-1,3,4-oxadiazole | 2.68 mmol, 988 mg | COC1=CC(=C(C=C1)C=1OC(=NN1)C12CCC(CC1)(CC2)CCCCC)C | C23H32N2O2
reactant | methylammonium trifluoroacetate | 67 mmol, 9.72 g | FC(C(=O)[O-])(F)F.C[NH3+]
reactant | methylamine | 67 mmol, 2M, 33 mL | CN | CH5N
product | 3-(4-methoxy-2-methylphenyl)-4-methyl-5-(4-pentylbicyclo[2.2.2]oct-1-yl)-4H-1,2,4-triazole | COC1=CC(=C(C=C1)C1=NN=C(N1C)C12CCC(CC1)(CC2)CCCCC)C | C24H35N3O
